US08669234B2
A mixture of 4-Bromo-1H-pyridin-2-one (0.613 g), silver carbonate (0.63 g) and benzyl bromide (0.50 mL) in benzene (10 mL) was heated at 50° C. for 24 hours, protected from light. Reaction mixture stirred ambient temperature for 16 hours. Reaction mixture was filtered through a pad of CELITE, which was washed ethyl acetate. The filtrate was concentrated and purified by flash column chromatography (silica gel, 0 to 10% ethyl acetate/hexanes) to give 2-Benzyloxy-4-bromo-pyridine (0.6043 g): LCMS-ESI+: calc'd for C12H11BrNO: 265.12 (M+H+). Found: 263.8, 265.8 (M+H+).

reactant | 4-Bromo-1H-pyridin-2-one | 0.613 g | BrC1=CC(NC=C1)=O | C5H4BrNO
reactant | benzyl bromide | 0.50 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
catalyst | silver carbonate | 0.63 g | C([O-])([O-])=O.[Ag+2]
product | 2-Benzyloxy-4-bromo-pyridine | 0.6043 g | C(C1=CC=CC=C1)OC1=NC=CC(=C1)Br | C12H10BrNO
